US08076516B2
N-(3-(3-bromo-4-methoxyphenyl)-3-hydroxypropyl)-2,2,2-trifluoroacetamide was coupled with 4-ethynylheptan-4-ol to give 2,2,2-trifluoro-N-(3-hydroxy-3-(3-(3-hydroxy-3-propylhex-1-ynyl)-4-methoxyphenyl)propyl)acetamide as a yellow oil. Yield (0.92 g, 55%): 1H NMR (400 MHz, DMSO-d6) δ 9.31 (t, J=5.0 Hz, 1H), 7.24-7.21 (m, 2H), 6.95 (d, J=9.2 Hz, 1H), 5.25 (d, J=4.8 Hz, 1H), 5.05 (s, 1H), 4.51-4.47 (m, 1H), 3.75 (s, 3H), 3.24-3.17 (m, 2H), 1.77-1.72 (m, 2H), 1.61-1.42 (m, 8H), 0.89 (t, J=7.0 Hz, 6H).

reactant | N-(3-(3-bromo-4-methoxyphenyl)-3-hydroxypropyl)-2,2,2-trifluoroacetamide | BrC=1C=C(C=CC1OC)C(CCNC(C(F)(F)F)=O)O | C12H13BrF3NO3
reactant | 4-ethynylheptan-4-ol | C(#C)C(CCC)(CCC)O | C9H16O
product | 2,2,2-trifluoro-N-(3-hydroxy-3-(3-(3-hydroxy-3-propylhex-1-ynyl)-4-methoxyphenyl)propyl)acetamide | FC(C(=O)NCCC(C1=CC(=C(C=C1)OC)C#CC(CCC)(CCC)O)O)(F)F | C21H28F3NO4
